US05356886
A mixture of (E)-6-chloro-9-[2-(t-butyldiphenylsilyloxy)methyl-4-(diisopropoxyphosphoryl)but-3-enyl]purine (244 mg, 381 μmol) and sodium azide (25 mg, 381 μmol) in N,N-dimethylformamide (7 ml) was heated at 70° C. for 2.8 h. The solvent was removed and the residue purified by column chromatography on silica gel eluting with acetone-hexane (1:4, 1:1) to give (E)-6-azido-9-[2-(t-butyldiphenylsilyloxy)methyl-4-(diisopropoxyphosphoryl)but-3-enyl]purine as a gum (186 mg, 75%); λmax (EtOH) 282 (10,363)nm; υmax (film) 2980, 2935, 2155, 1640, 1375, 1250 and 1110 cm-1 ; δH (CDCl3) 1.00-1.40 (21H, m, CH3), 3.05 (1H, m, CH), 3.70 (2H, m, CH2O ), 4.30-4.80 (4H, m, CH2N and CH(CH3)), 5.58 (1H, m, PCH= CH) , 6.70 (1H, m, PCH=CH) , 7.30-7.70 (10H, m, C6H5) , 7.86 (0.35H, s, H-2/H-8), 8.05 (0.65H, s, H-2/H-8), 8.64 (0.35H, s, H-2/H-8), 9.44 (0.65H, s, H-2/H-8)*; FABMS (TDE/Na) 670 (MNa+), 648 (MH+).

reactant | (E)-6-chloro-9-[2-(t-butyldiphenylsilyloxy)methyl-4-(diisopropoxyphosphoryl)but-3-enyl]purine | 381 μmol, 244 mg | ClC1=C2N=CN(C2=NC=N1)CC(\C=C\P(=O)(OC(C)C)OC(C)C)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C32H42ClN4O4PSi
reactant | sodium azide | 381 μmol, 25 mg | [N-]=[N+]=[N-].[Na+]
solvent | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
product | (E)-6-azido-9-[2-(t-butyldiphenylsilyloxy)methyl-4-(diisopropoxyphosphoryl)but-3-enyl]purine | 186 mg, 75% | N(=[N+]=[N-])C1=C2N=CN(C2=NC=N1)CC(\C=C\P(=O)(OC(C)C)OC(C)C)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C32H42N7O4PSi
